US08134001B2
In a manner similar to the method described in example 1d, 5-chloro-2-(1,4-dioxa-spiro[4.5]dec-8-yloxy)-benzaldehyde (1.5 g, 5 mmol) was used as the starting material in place of 4-(2-formyl-4-iodo-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester to react with 1,1,3,3,3-hexamethyldisilazane (0.8 g, 5 mmol), n-butyllithium (2.5 M, 2 mL, 5 mmol), trimethylsilyl chloride (0.55 g, 5 mmol), triethylamine (0.7 g, 6.8 mmol) and acetyl chloride (0.5 g, 6.8 mmol) to give crude 1-[5-chloro-2-(1,4-dioxa-spiro[4.5]dec-8-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-chloro-2-(1,4-dioxa-spiro[4.5]dec-8-yloxy)-benzaldehyde | 5 mmol, 1.5 g | ClC=1C=CC(=C(C=O)C1)OC1CCC2(OCCO2)CC1 | C15H17ClO4
reactant | 4-(2-formyl-4-iodo-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C(C=C1)I)C=O | C18H24INO4
reactant | 1,1,3,3,3-hexamethyldisilazane | 5 mmol, 0.8 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 5 mmol, 2.5 M, 2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 5 mmol, 0.55 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 6.8 mmol, 0.7 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 6.8 mmol, 0.5 g | C(C)(=O)Cl | C2H3ClO
product | 1-[5-chloro-2-(1,4-dioxa-spiro[4.5]dec-8-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1CCC2(OCCO2)CC1 | C20H28ClNO4Si
